US07763639B2
1-ALLYL-4-[2-FLUORO-3-(TRIFLUOROMETHYL)PHENYL]PIPERIDINE
Preparation according to Example 1: 4-[2-fluoro-3-(trifluoromethyl)phenyl]piperidine (0.45 g, 1.82 mmol), acetonitrile (20 ml), potassium carbonate (0.6 g, 1.1 mmol) and allyl bromide (0.16 ml, 2.0 mmol). Yield: 0.42 g (80%). The amine was converted to the hydrochloric acid salt and recrystallized from ethanol/diethyl ether: M.p. 224-226° C. MS m/z (relative intensity, 70 eV) 287 (M+, 70), 286 (90), 260 (bp), 258 (53), 82 (95).

reactant | 4-[2-fluoro-3-(trifluoromethyl)phenyl]piperidine | 1.82 mmol, 0.45 g | FC1=C(C=CC=C1C(F)(F)F)C1CCNCC1 | C12H13F4N
reactant | potassium carbonate | 1.1 mmol, 0.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 2.0 mmol, 0.16 ml | C(C=C)Br | C3H5Br
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-ALLYL-4-[2-FLUORO-3-(TRIFLUOROMETHYL)PHENYL]PIPERIDINE | C(C=C)N1CCC(CC1)C1=C(C(=CC=C1)C(F)(F)F)F | C15H17F4N
